* C:\Users\Parry\Documents\GitHub\BCIT-BAJA\testing\LTSPICE_SIMS\strainGaugeTransientAnalysis.asc
* Generated by LTspice 24.1.7 for Windows.
V1 N001 0 5
M1 N001 N002 N003 N003 Si7137DP
R1 N001 N002 10k
V2 N002 0 PULSE(0 5 2 0.1ns 0.1ns 1 3 3)
R2 N003 0 43.75
C1 N003 0 220µF
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parry\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 15
.backanno
.end
